US07662809B2
Step 4: 3-[2-(2-aminophenyl)-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]-N-(tert-butoxycarbonyl)alanine
To a solution of methyl 2-bromo-1-{2-[(tert-butoxycarbonyl)amino]-3-methoxy-3-oxopropyl}-3-cyclohexyl1H-indole-6-carboxylate in nBuOH:H2O (9:1, 0.08 M) were added 1.5 eq of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline, 6 eq of K3PO4, 5 mol % of dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine and 2.5 mol % of palladium acetate. The mixture was heated at 90° C. for 4 h. After cooling to RT, the mixture was acidified with HCl (IN) and extracted (twice) with EtOAc. The combined organics were washed with brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude product mixture was redissolved in THF:H2O (1:1, 0.08 M) and 2 eq LiOH added. After stirring for 1 h, ester deprotection was complete as evidenced by RP-HPLC analysis. The volatiles were removed in vacuo and the residue partitioned between EtOAc and H2O. The organics were washed with brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude residue was used directly in the next step; MS (ES+) m/z 536 (M+H)+, 558 (M+Na)+.

reactant | methyl 2-bromo-1-{2-[(tert-butoxycarbonyl)amino]-3-methoxy-3-oxopropyl}-3-cyclohexyl1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(C(=O)OC)NC(=O)OC(C)(C)C | C25H33BrN2O6
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.5 eq | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | K3PO4 | 6 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | HCl | Cl | ClH
reactant | LiOH | 2 eq | [Li+].[OH-]
solvent | nBuOH H2O | 0.08 M | C(CCC)O.O
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(2-aminophenyl)-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]-N-(tert-butoxycarbonyl)alanine | NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)C[C@H](NC(=O)OC(C)(C)C)C(=O)O | C30H37N3O6
